US08980877B2
Intermediate 9: (E)-3-{8-Fluoro-4-oxo-spiro[chromane-2,4′-piperidine]-6-yl}-acrylic acid methyl ester
A mixture of (E)-3-{1′-tert-butoxycarbonyl-8-fluoro-4-oxo-spiro[chromane-2,4′-piperidine]-6-yl}-acrylic acid methyl ester (2.78 g, 6.63 mmol) and 4 M HCl in dioxane (3 ml) in DCM (50 ml) was stirred at RT for 5 h. The solvent was removed, the residue was triturated in DCM and filtered to give the title compound as its hydrochloride salt (2.04 g).

reactant | (E)-3-{1′-tert-butoxycarbonyl-8-fluoro-4-oxo-spiro[chromane-2,4′-piperidine]-6-yl}-acrylic acid methyl ester | 6.63 mmol, 2.78 g | COC(\C=C\C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=C(C1)F)=O)=O | C22H26FNO6
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-{8-Fluoro-4-oxo-spiro[chromane-2,4′-piperidine]-6-yl}-acrylic acid methyl ester | COC(\C=C\C=1C=C2C(CC3(CCNCC3)OC2=C(C1)F)=O)=O | C17H18FNO4
